US07417060B2
(1R)-2-[[2-(4-Bromophenyl)ethyl]amino]-1-(3-pyridyl)ethanol dihydrochloride (188 g) was dissolved in water (750 ml) and tetrahydrofuran (750 ml) was added. pH of the solution was adjusted to 7.5 with 5N aqueous sodium hydroxide solution (90 ml). To the solution was added di-tert-butyl dicarbonate (115 g) in tetrahydrofuran (100 ml) dropwise at room temperature over 18 minutes, keeping the pH at 7.5-7.6 with aqueous sodium hydrodxide solution. The solution was stirred at room temperature for 1 hour. The mixture was partitioned between ethyl acetate (1.5 l) and water (1.5 l). The organic layer was separated and washed with water (1.5 l) and brine (1.5 l) dried over sodium sulfate, and evaporated under reduced pressure to give tert-butyl [2-(4-bromophenyl)ethyl][(2R)-2-hydroxy-2-(3-pyridyl)ethyl]carbamate (187 g).

reactant | (1R)-2-[[2-(4-Bromophenyl)ethyl]amino]-1-(3-pyridyl)ethanol dihydrochloride | 188 g | Cl.Cl.BrC1=CC=C(C=C1)CCNC[C@H](O)C=1C=NC=CC1
reactant | sodium hydroxide | 5N, 90 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 115 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium | [Na] | Na
solvent | water | 750 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
product | tert-butyl [2-(4-bromophenyl)ethyl][(2R)-2-hydroxy-2-(3-pyridyl)ethyl]carbamate | 187 g | BrC1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@@H](C=1C=NC=CC1)O | C20H25BrN2O3
